US09340527B2
1-((6-(trans-4-tert-Butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylic acid
To a solution of ethyl 1-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylate (150 mg, 0.3 mmol) in MeOH (5 mL) was added NaOH (60 mg, 1.5 mmol, 5.0 eq) and H2O (0.5 mL). The reaction mixture was stirred at 85° C. for 2 h. The pH of the solution was adjusted to 6 with 3 N HCl. The mixture was filtered and the yellow solid was the desired product 1-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylic acid (100 mg, yield: 80%). ESI-MS (M+1)+: 438.3, HPLC: 100%. 1HNMR (400 MHz, DMSO-d6) δ: 10.21 (s, 1H), 8.02 (br, 1H), 7.93˜7.88 (m, 2H), 7.67 (br, 1H), 7.48 (s, 1H), 7.26 (d, 1H), 4.51˜4.45 (m, 2H), 3.35 (s, 2H), 3.32 (br, 1H), 2.92 (br, 1H), 2.29˜2.14 (m, 4H), 1.92˜1.76 (m, 4H), 1.47˜1.12 (m, 9H), 0.93 (s, 9H).

reactant | ethyl 1-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylate | 0.3 mmol, 150 mg | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)OCC)C | C30H43NO3
reactant | NaOH | 1.5 mmol, 60 mg, 5.0 eq | [OH-].[Na+]
reactant | H2O | 0.5 mL | O | H2O
reactant | HCl | 3 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 1-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methyl)-4-methylpiperidine-4-carboxylic acid | 100 mg, yield: 80% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)O)C | C28H39NO3
